US07666834B2
Preparation of 4-Methyl-2-nitro-thiobenzamide (56)
The thio-benzamide, was prepared as described in Example 14-1, starting from 4-methyl-2-nitro-benzonitrile via 4-methyl-2-nitro-benzamide which gave the title compound (1.03 g, 98%). LC/MS: (Method I): tR=0.54 min, >80%, m/z (ESI)=180 (M-NH2)+.

reactant | thio-benzamide | C(C1=CC=CC=C1)(=S)N | C7H7NS
reactant | 4-methyl-2-nitro-benzonitrile | CC1=CC(=C(C#N)C=C1)[N+](=O)[O-] | C8H6N2O2
reactant | 4-methyl-2-nitro-benzamide | CC1=CC(=C(C(=O)N)C=C1)[N+](=O)[O-] | C8H8N2O3
product | 4-Methyl-2-nitro-thiobenzamide | 1.03 g, 98% | CC1=CC(=C(C(=S)N)C=C1)[N+](=O)[O-] | C8H8N2O2S
